US05132317
4-[2-(N-Methyl-N-phenylamino)ethoxy]benzaldehyde
A mixture of 4-[2-(N-methyl-N-phenylamino)ethoxy]benzyl alcohol (3.36 g), manganese (IV) oxide (11.3 g) and dichloromethane (150 ml) were stirred at room temperature overnight. The mixture was filtered through a Soxhlet thimble and the residue extracted with refluxing dichloromethane for 2.5 hours. The solvent was evaporated to afford the title compound, an oil, which was used without further purification.

reactant | 4-[2-(N-methyl-N-phenylamino)ethoxy]benzyl alcohol | 3.36 g | CN(C1=CC=CC=C1)CCOC1=CC=C(CO)C=C1 | C16H19NO2
catalyst | manganese (IV) oxide | 11.3 g | [O-2].[Mn+4].[O-2]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-[2-(N-Methyl-N-phenylamino)ethoxy]benzaldehyde | CN(C1=CC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C16H17NO2
